US07074799B2
In a Parr apparatus, hydrogenate an ethanolic solution of 3-nitro-2′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester (5.54 g, 0.0169 mol) under 55 psi of hydrogen using tetrakis(triphenylphosphine)palladium(0) (300 mg). After 18 hours, filter the mixture through celite and concentrate under reduced pressure to give 3-amino-2′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester as a solid.

reactant | 3-nitro-2′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester | 0.0169 mol, 5.54 g | COC(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)[N+](=O)[O-] | C15H10F3NO4
reactant | hydrogen | [H][H] | H2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-2′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester | COC(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)N | C15H12F3NO2
